Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
Bronchoscopy, Y stent Placement
 
History of Present Illness:
The patient is a ___ yo F with history of HIV (Last CD4 186 on 
___ and recently diagnosed metastatic small cell lung cancer, 
presenting with worsening shortness of breath x 5 days. On 
admission to the hospital, the patient reported she has had 
worsening shortness of breath over the prior 5 days to the point 
where she is unable to climb stairs and lie flat. She had been 
using her inhalers at home with some relief of symptoms. + cough 
with pink tinged sputum 2 days ago. Denied fevers or chills. She 
was started on prednisone for these symptoms by her primary 
doctor in the week prior to admission. She reports + pleuritic 
pain in right chest when coughing. Denied other chest pain, 
abdominal pain, urinary complaints, bowel changes, or lower 
extremity pain/swelling.  

In the ED, initial vital signs were 97.3, HR 109, BP 161/115, RR 
40, O2 Sat 97% with neb. O2 sat's decreased to 88% NS. This 
improved with continued neb treatments to the mid 90's on 4L. 
Original symptoms improved with 2 combivnet nebs. She received 
ceftriaxone 1g x 1 and azithromycin 500mg PO x 1 because of 
concern for PNA. A CTA was performed and prelim read was no PE. 
However, the study showed new mediastinal lymphadenopathy 
causing lingular and left upper lobe collapse as well as a 
destructive lesion centered in the right third rib with invasion 
into the adjacent anterior chest wall and pulmonary parenchyma.  

 
She was initially admitted to OMED but immediately triggered 
twice for respiratory distress and was transferred to the ICU. 
There, she underwent flexible bronchoscopy which showed that the 
right upper lobe was completely occluded with tumor, and also 
revealed tumor in the left mid main-stem bronchus with 
bronchomalacia of the left mainstem that resulted in complete 
occlusion of the airway on exhalation. She was then transferred 
to the ___ for rigid bronchoscopy, which was performed 
on ___. Endobronchial tumor was debrided with APC and a 
Y-stent was deployed successfully. During her ICU course she was 
started on levo/flagyl for empiric treatment of post-obstructive 
PNA, but given her lack of fevers/WBC/cough, these were d/c'ed 
on antibiotic day #4. She was maintained on steroids and a taper 
was initiated.  

She was transferred back to the OMED service on ___ for 
possible palliative chemo/XRT. At that point her SOB and 
associated chest pain had entirely resolved, and that she is in 
no pain. She had no F/C and denies any complaints.  

At 2:30 AM on ___, she again was in respiratory distress, 
with deep ronchi and desatting down into the low ___ when not 
given additional oxygen. She improved with suction; however, a 
portable chest x-ray showed severe atelectasis of the right 
upper lobe as well as continued near white-out of the left side, 
now with even fewer visible lung markings and a more obscured 
hemidiaphragm. When asked about intubation, the patient was not 
clear on her goals and simply stated that she hoped we didn't 
have to do that. She was transferred to the ___ for observation 
and closer monitoring and nursing care. She was on precautions 
for a positive C. diff during this admission, for which she had 
been prescribed Flagyl, as below.  

 
Past Medical History:
-- Small Cell Lung Cancer - Dx ___, see below
-- HIV - diagnosed ___ ago. ___ CD4=186, VL32,000  
-- DVT/PE  
-- Asthma  
-- Depression  
-- G6PD deficiency  
-- HTN  
-- Hypercholesterolemia  
-- Low back pain  
-- GERD  
-- History of PPD positivity status post INH in ___  
-- Gastroesophageal reflux, status post fundoplication in ___. 
 
-- History of positive RPR with normal CSF  
-- Thrombocytopenia  
-- Colonic adenoma by colonoscopy in ___  
-- s/p left lower extremity venous stripping  
-- Abdominal wall abscess  
-- History of deep venous thrombophlebitis ___.  
-- History of anal condyloma excised in ___  
..
. Small cell lung ca: Diagnosed ___. Completed her fourth 
cycle of chemotherapy with carboplatin and etoposide from 
___ until ___. 
 
Social History:
___
Family History:
4 children, one son with HIV. Mother: s/p pacer, lymphoma 
 
Physical Exam:
Vitals - HR 89 BP 127/75 RR 26 O2 89% on cool neb oxygen ___ 
on 2.5L when triggered by RN on onc floor)  
General - SOB, labored breathing, using accessory muscles of 
respiration, not able to use voice, mouthing sentences  
Neck - + anterior cervical lymphadenopathy  
CV - distant heart sounds, no appreciable murmur  
Lungs - extremely loud low-pitched ronchi, unclear air movement 
through most of lung fields (i.e., most sounds are projected 
upper airway sounds), some air movement at lower right)  
Abdomen - soft, NT/ND, BS+ 
 
Pertinent Results:
Imaging:  
___ CXR - Opacity involving the entire left lobe of the lung 
is concerning for left lobe destruction.  
___ CTA - 1. No pulmonary embolus. 2. Marked increased size 
of confluent mediastinal lymphadenopathy causing lingular 
collapse as well as left upper lobe collapse. Marked increased 
size of destructive lesion within the lateral right third rib.  
___ CXR - verbal report only: significant 
atelectasis/collapse of RUL; worsening of opacity and more 
obscure hemidiaphragm on left. Only clear region is RLL.  

Micro:  
___ Blood - pending  

 
Brief Hospital Course:
___ yo F with HIV, small cell lung cancer, and HTN admitted with 
SOB. Found to have left upper/lingular lung collaspe.

# SOB - She was initially admitted to ___ but immediately 
triggered twice for respiratory distress and was transferred to 
the ICU. There, she underwent flexible bronchoscopy which showed 
that the right upper lobe was completely occluded with tumor, 
and also revealed tumor in the left mid main-stem bronchus with 
bronchomalacia of the left mainstem that resulted in complete 
occlusion of the airway on exhalation. She was then transferred 
to the ___ for rigid bronchoscopy, which was performed 
on ___. Endobronchial tumor was debrided with APC and a 
Y-stent was deployed successfully. During her ICU course she was 
started on levo/flagyl for empiric treatment of post-obstructive 
PNA, but given her lack of fevers/WBC/cough, these were d/c'ed 
on antibiotic day #4. She was maintained on steroids and a taper 
was initiated. 

She was transferred back to the OMED service on ___ for 
possible palliative chemo/XRT. At that point her SOB and 
associated chest pain had entirely resolved, and that she was in 
no pain. She had no F/C and denies any complaints.  

On ___, she again was in respiratory distress, with deep 
ronchi and desatting down into the low ___ when not given 
additional oxygen. She improved with suction; however, a 
portable chest x-ray showed severe atelectasis of the right 
upper lobe as well as continued near white-out of the left side, 
now with even fewer visible lung markings and a more obscured 
hemidiaphragm. She was transferred back to the FICU where a 
bronchoscopy was performed and a large mucous plug was removed.  
Her respiratory status improved, and she was again called out to 
the floor.

On the floor she required interventional pulmonary to perform 
one additional bronch on ___, where additional tumor and mucus 
were removed. She received chest ___ qid, aggressive mucolytics, 
and nebs RTC. She did not plug again but remained with a small 
of requirement and a junky exam. Her steroids were tapered as 
she briefly experienced some hallucinations thought to be a side 
effect.  Respiratory status at this point stabilized, but given 
her poor prognosis, she was discharged home with hospice 
therapy.

# Small Cell Lung Cancer - The patients small cell lung cancer 
has returned after an initial response to chemotherpy in 
___.  She had a Y stent placed (see above) for tumor 
obstruction of her left and right bronchus.  She was started on 
chemotherapy on ___ when she received palliative irinotecan. 
The palliative care team met with the patient multiple times and 
the pt wished to remain full code. She received 5 sessions of 
palliative XRT to the chest for tumor shrinkage.  Given poor 
prognosis, patient preferred to go home with hospice, though she 
remained Full Code throughout her hospital stay.
  
# C Diff - Treated with Flagyl x 14 day course with result of 
diarrhea improvement.

# HIV infection. CD4 171, VL 32K (___). Continued on 
outpatient regimen of enfuvirtide, fosamprenavir, didanosine, 
stavudine, and atovaquone prophylaxis.  

# Depression: Continue on outpatient venlafaxine and 
amitriptyline.  
 
# Hypertension: had been on atenolol at home.  She was switched 
to metoprolol at the time of admission for better blood pressure 
control.  She then became normotensive without medical therapy 
and remained so at the time of discharge.  Was discharged 
without antihypertensive therapy to home hospice.

# Hyperlipidemia: Continued on pravastatin.  

 
Medications on Admission:
Atenolol 50mg daily  
Venlafaxine SR 150 mg DAILY  
Atovaquone 750 mg BID  
Pravastatin 20 mg DAILY  
Montelukast 10 mg DAILY  
Amitriptyline 150 mg HS  
Enfuvirtide 90 mg BID  
Fosamprenavir 1400 mg Q12H  
Didanosine 400 mg DAILY  
Stavudine 40 mg Q12H  
Fluticasone-Salmeterol 250-50 mcg/Dose Disk BID  
Tiotropium Bromide 18 mcg Capsule DAILY  

 
Discharge Medications:
1. Morphine Concentrate 20 mg/mL Solution Sig: ___ mg PO q1h as 
needed for pain or SOB.
Disp:*QS mL* Refills:*0*
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
3. Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization Sig: 
One (1) NEB Inhalation Q2H (every 2 hours) as needed.
Disp:*QS NEB* Refills:*1*
4. Amitriptyline 50 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
5. Atovaquone 750 mg/5 mL Suspension Sig: Five (5) mL PO BID (2 
times a day).  
6. Didanosine 400 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Enfuvirtide 90 mg Kit Sig: One (1) Kit Subcutaneous bid ().  
9. Fosamprenavir 700 mg Tablet Sig: Two (2) Tablet PO Q12H 
(every 12 hours).  
10. Ipratropium Bromide 0.02 % Solution Sig: One (1) NEB 
Inhalation Q6H (every 6 hours).
Disp:*120 NEB* Refills:*2*
11. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
12. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day) as needed.  
13. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
15. Pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
17. Stavudine 20 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
18. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).
Disp:*30 Cap(s)* Refills:*2*
19. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
20. Acetylcysteine 20 % (200 mg/mL) Solution Sig: Three (3) ML 
Miscellaneous Q 8H (Every 8 Hours) as needed for stent.
Disp:*QS ML(s)* Refills:*0*
21. Guaifenesin 600 mg Tablet Sustained Release Sig: Two (2) 
Tablet Sustained Release PO BID (2 times a day).  
22. Loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day) as needed.  
23. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for 4 days: Will be a chronic medication, to be 
filled by hospice.
Disp:*30 Tablet(s)* Refills:*0*
24. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*5 Tablet(s)* Refills:*0*
25. Home oxygen
___ by Nasal cannula or mask PRN patient comfort
26. Semi-electric bed with ___ side rails
For continued care of patient at home with hospice

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
SCLC with locally advaced obstructing disease

 
Discharge Condition:
Hemodynamically stable and afebrile

 
Discharge Instructions:
You were admitted to the hospital with shortness of breath. You 
needed our lung doctors to ___ a stent in your trachea to keep 
it open, as your cancer had invaded into the lung and caused 
blockage of a large portion of your airway. Mucus continued to 
clog your airway and you required multiple bronchoscopies with 
removal of tumor and mucus. You also had 1 dose of palliative 
chemotherapy, and 5 sessions of palliative radition, to try to 
alleviate your symptoms.

While here you also developed an infection of your stool which 
causes diarrhea. You were treated with antibiotics x 14 days and 
your diarrhea improved.
.
You will be going home with hospice services. Please take all 
you medications as prescribed. Please keep all followup 
appointments. If you experience any symptoms which concern you, 
please call the on call RN, your doctor, or go to the ED.
 
Followup Instructions:
___